US04539149
(a) Coumarin-3-carbonyl chloride
Coumarin-3-carboxylic acid (2.1 g, 10 m mole) was suspended in dry dichloromethane (10 ml) and heated at reflux for 2 h with thionyl chloride (5 ml). After this time a small amount of insoluble material was filtered off and petroleum ether 60°-80° C. (35 ml) was added to the filtrate. The acid chloride was filtered, washed with ether and dried (1.63 g, 71%), mp 138°-41° C.; νmax (CHCl3) 1790, 1740, 1610, 1570 cm-1 ; δ (CDCl3) 7.30-8.10 (4H, m, phenyls), 8.95 (1H, s, coumarin 4-H).

reactant | Coumarin-3-carboxylic acid | 2.1 g | O1C(=O)C(=CC2=CC=CC=C12)C(=O)O | C10H6O4
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Coumarin-3-carbonyl chloride | O1C(=O)C(=CC2=CC=CC=C12)C(=O)Cl | C10H5ClO3
